data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_397965_0,[N:1](/[C:2]([N:6]([H:14])[H:15])=[N:9]/[N:5]([H:12])[H:13])([C:3]([N:7]([H:16])[H:17])=[C:8]([H:18])[H:19])[N:4]([H:10])[H:11]>>[N:1](=[C:2](/[N:6]([H:14])[H:15])[N:9]([C:3]([N:7]([H:16])[H:17])=[C:8]([H:18])[H:19])[N:5]([H:12])[H:13])\[N:4]([H:10])[H:11],51.32197000001085
MR_358744_2,[C:1](\[C:2]([H:15])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])([N:7]([H:13])[H:14])[N:8]([C:3]([H:18])([H:19])[H:20])[H:9])=[N:6]\[H:12]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([N:7]([H:13])[H:14])=[N:8]/[C:3]([H:18])([H:19])[H:20])([N:5]([H:10])[H:11])[N:6]([H:9])[H:12],39.02736249998384
MR_148837_0,[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([O:7][H:11])[O:8][H:10])([O:5][H:9])=[O:6]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])=[O:8])([O:5][H:9])([O:6][H:10])[O:7][H:11],38.366605000011305
MR_101292_0,[C:1]([N:4]([C:3]([H:18])([H:19])[H:20])[O:8][C:2]([H:15])([H:16])[H:17])(/[C:7](=[C:6](/[N:5]([H:9])[H:10])[H:13])[H:14])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:4]([C:3]([H:18])([H:19])[H:20])[C:7]1([C:6]([N:5]([H:9])[H:10])([O:8][C:2]([H:15])([H:16])[H:17])[H:13])[H:14],64.23843000000161
MR_354141_0,[C:1]([N:5]([C:2]([H:14])([H:15])[H:16])[N:4]([C:6]([C:3]([H:17])([H:18])[H:19])=[O:8])[N:7]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:5]([C:2]([H:14])([H:15])[H:16])[O:8]/[C:6]([C:3]([H:17])([H:18])[H:19])=[N:4]/[N:7]([H:9])[H:10])([H:11])([H:12])[H:13],71.79227500001303
MR_520254_0,[C:1]([C:2](=[C:3]([H:11])[H:12])[O:4]/[N:5]=[N:6]\[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](/[N:5]=[N:6]/[H:7])([H:11])[H:12])=[O:4])([H:8])([H:9])[H:10],22.96587250001494
MR_108345_1,[C:1]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[C:7](/[O:8][H:9])[H:12])([H:10])[H:11]>>[C:1](=[C:6]([C:4]([H:19])([H:20])[H:21])[C:7]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([O:8][H:9])[H:12])([H:10])[H:11],65.66160000004672
MR_318451_1,[C:1](/[C:5](=[C:4](/[C:3]([H:17])([H:18])[H:19])[O:8][H:9])[N:6]([H:10])[H:11])([O:7][C:2]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])([C:4]([C:3]([H:17])([H:18])[H:19])=[O:8])[N:6]([H:10])[H:11])([O:7][H:9])([H:12])[H:13],60.45962500005416
MR_399772_1,[C:1]([C:3]([N:2]([N:4]([H:7])[H:8])[N:5]([H:9])[H:10])=[O:6])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]\[N:4]([H:7])[H:8])[O:6][N:5]([H:9])[H:10])([H:11])([H:12])[H:13],72.50762499995474
MR_194182_1,[C:1]([N:3](/[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7](\[N:5]([H:9])[H:10])[H:13])/[C:6](=[N:8]\[H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:4](/[C:2]([H:17])([H:18])[H:19])[C:7]([N:5]([H:9])[H:10])(/[C:6](=[N:8]\[H:11])[H:12])[H:13])([H:14])([H:15])[H:16],72.40157750000847
MR_432804_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:5]([H:9])[H:10])(/[C:4]([N:6]=[O:8])=[N:7]\[H:11])([H:12])[H:13]>>[C:1](/[N:3]=[N:5]/[H:10])(/[C:4]([N:6]([C:2]([H:14])([H:15])[H:16])[O:8][H:9])=[N:7]\[H:11])([H:12])[H:13],62.30384749999928
MR_585924_0,[C:1]([C:2](=[C:4]([H:10])[H:11])[O:5][H:8])([C:3](=[O:7])[H:9])=[O:6]>>[C:1]1(=[O:6])[C:3]([C:2](=[C:4]([H:10])[H:11])[O:5][H:8])([H:9])[O:7]1,55.17795749997745
MR_661302_0,[C@@:1]([N:4]([H:10])[H:11])([C:6](=[O:8])[H:14])(/[N:7]=[C:3](\[C:2]([H:15])([H:16])[H:17])[N:5]([H:12])[H:13])[H:9]>>[C:1](\[N:4]([H:10])[H:11])(=[N:7]\[C@@:3]([C:2]([H:15])([H:16])[H:17])([N:5]([H:12])[H:13])[C:6](=[O:8])[H:14])[H:9],70.76380249997015
MR_30336_1,[C:1]([N:3]([O:6][H:8])[H:10])(/[C:5](=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:3]([O:6][H:8])[C@@:5]1([C@:4]([C:2]([H:14])([H:15])[H:16])([O:7][H:9])[H:10])[H:13],72.18822750001209
MR_465641_2,[C:1]1([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C:7]([C:2]([C:5]([H:21])([H:22])[H:23])([H:13])[H:14])([N:6]([O:8][H:10])[H:11])[N:9]1[H:12]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:6]([O:8][H:10])[H:11])/[C:7]([C:2]([C:5]([H:21])([H:22])[H:23])([H:13])[H:14])=[N:9]/[H:12],66.15042249998965
MR_410471_1,[C:1](=[C:2](/[O:7][H:9])[H:10])(\[O:5][C:3](=[C:4]([H:12])[H:13])[H:11])[O:6][H:8]>>[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([O:7][H:9])[H:10])(=[O:5])[O:6][H:8],60.19356500001251
MR_198766_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:11])[H:15])([C:4](=[C:5]([H:16])[H:17])[H:9])[O:6][O:7][H:8]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:11])[H:15])[C:4]([O:6][O:7][H:8])([H:9])[C:5]1([H:16])[H:17],67.23474249999853
MR_239819_1,[C@:1]([C:3]([N:4]([H:11])[H:12])=[C:5]([H:16])[H:17])([O:6][H:9])(/[N:7]=[N:8]/[C:2]([H:13])([H:14])[H:15])[H:10]>>[C:1](\[O:6][H:9])(=[N:7]\[N:8]([C:2]([H:13])([H:14])[H:15])[C:3]([N:4]([H:11])[H:12])=[C:5]([H:16])[H:17])[H:10],68.9829575000077
MR_480084_1,[C:1](=[C:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])([C:5](=[O:7])[H:13])[O:6][H:8]>>[C:1]1([O:6][H:8])=[C:5]([H:13])[O:7][C:2]1([N:3]([H:9])[H:10])[N:4]([H:11])[H:12],44.50041750000537
